US08048403B2
Hexyltrimethylammonium Silicate Solution
Hexyltrimethylammonium hydroxide, (30.03%), 492.96 g, was diluted with 1073.86 g deionized water and to it there were added 650.0 g of tetraethylorthosilicate, (98%) with stirring. After hydrolysis was complete, the solution was placed on a rotary evaporator to remove the alcohol. A total of 518.6 g of liquid was removed, after which 150 g of deionized water was added. Elemental analysis showed the solution to contain 5.10 wt % Si.

reactant | Hexyltrimethylammonium hydroxide | [OH-].C(CCCCC)[N+](C)(C)C
reactant | tetraethylorthosilicate | 650.0 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | water | O | H2O
product | Hexyltrimethylammonium Silicate | [Si]([O-])([O-])([O-])[O-].C(CCCCC)[N+](C)(C)C.C(CCCCC)[N+](C)(C)C.C(CCCCC)[N+](C)(C)C.C(CCCCC)[N+](C)(C)C | InChI=1S/4C9H22N.O4Si/c4*1-5-6-7-8-9-10(2,3)4;1-5(2,3)4/h4*5-9H2,1-4H3;/q4*+1;-4
